US06747023B1
(2RS)-2-(N-tert-Butoxycarbonylaminomethyl)-6-hydroxymethyl-1,2,3,4-tetrahydronaphthalene
In dichloromethane (10 ml), the (2RS)-2-(N-tert-butoxycarbonylaminomethyl)-6-methoxycarbonyl-1,2,3,4-tetrahydronaphthalene (0.47 g) was dissolved. Aluminum diisobutylhydride (a 0.95M hexane solution, 3.60 ml) was added dropwise to the resulting solution at an external temperature of −78° C., followed by stirring for 90 minutes without changing the temperature. Methanol was added to the reaction mixture and the mixture was heated to room temperature. The insoluble matter was filtered off from filtration through Celite. The filtrate was concentrated under reduced pressure. The concentrate was diluted with dichloromethane, washed with water and dried over anhydrous sodium sulfate. The residue obtained by distilling off the solvent under reduced pressure was purified by chromatography on a silica gel column (hexane:ethyl acetate 3:1), whereby colorless crystals (0.31 g, 72%) was obtained. A portion of the resulting crystals was recrystallized from a mixed solvent of hexane and ethyl acetate, whereby colorless crystals were obtained.

reactant | (2RS)-2-(N-tert-butoxycarbonylaminomethyl)-6-methoxycarbonyl-1,2,3,4-tetrahydronaphthalene | 0.47 g | C(C)(C)(C)OC(=O)NCC1CC2=CC=C(C=C2CC1)C(=O)OC | C18H25NO4
reactant | hexane | 0.95M | CCCCCC | C6H14
reactant | Methanol | CO | CH4O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (2RS)-2-(N-tert-Butoxycarbonylaminomethyl)-6-hydroxymethyl-1,2,3,4-tetrahydronaphthalene | 0.31 g, 72% | C(C)(C)(C)OC(=O)NCC1CC2=CC=C(C=C2CC1)CO | C17H25NO3
